US07361763B2
Step 5: Synthesis of 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine
To a solution of 5-bromo-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (1.73 g, 3.02 mmol) in DMF (7 mL) in a microwave vial was added bis(pinacolato)diboron (1.54 g, 6.04 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), complex with dichloromethane (1:1) (86 mg, 0.11 mmol), and sodium acetate (0.74 g, 9.06 mmol). The vial was capped, flushed with N2, evacuated under vacuum, and heated in a microwave at 140° C. for 3600 seconds. The product was extracted into ethyl acetate, washed with H2O, dried over Na2SO4, filtered, and adsorbed onto silica gel. The crude material was purified immediately by flash chromatography using a gradient of ethyl acetate and hexane. The purification afforded the title compound as a white solid (0.72 g, 39% yield). 1H NMR (500 MHz, CDCl3) δ 8.81 (s, 1H), 8.73 (s, 1H), 8.16 (m, 1H), 8.07 (d, J=8.0 Hz, 2H), 8.04 (m, 2H), 7.038 (d, J=8.0 Hz, 2H), 7.24 (d, J=8.0 Hz, 2H), 6.67 (m, 1H), 2.41 (d, J=6.5 Hz, 3H), 2.36 (d, J=5.5 Hz, 3H), 1.39 (s, 12H). MS: m/z 619.1 (M+H+).

reactant | 5-bromo-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 3.02 mmol, 1.73 g | BrC=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C24H19BrN4O4S2
reactant | bis(pinacolato)diboron | 6.04 mmol, 1.54 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.11 mmol, 86 mg | ClCCl | CH2Cl2
reactant | sodium acetate | 9.06 mmol, 0.74 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.72 g, 39% yield | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)C | C30H31BN4O6S2
